US06130187
Preparation of 3-[4-chloro-2-(1-chloroethyl)-6-fluorobenzofuran-7-yl]-1-methyl-6-trifluoromethyluracil (Compound No. 393)
0.50 g (1.2 mmol) of 3-[4-chloro-2-(1-hydroxyethyl)-6-fluorobenzofuran-7-yl]-1-methyl-6-trifluoromethyluracil and 0.64 g (2.5 mmol) of triphenylphosphine were dissolved in 20 ml of acetonitrile, and 0.60 g (2.5 mmol) of chloranil was added thereto at room temperature. After stirring at room temperature for 2 hours, the reaction solution was poured into water and extracted with ethyl acetate. The organic layer was washed sequentially with water and a 5% potassium carbonate aqueous solution and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. Then, the obtained residue was purified by silica gel column chromatography to obtain 0.50 g (yield: 96.2%) of the desired product as a pale brown glassy substance. Refractive index: 1.5639 (20° C.).

reactant | 3-[4-chloro-2-(1-hydroxyethyl)-6-fluorobenzofuran-7-yl]-1-methyl-6-trifluoromethyluracil | 1.2 mmol, 0.50 g | ClC1=CC(=C(C2=C1C=C(O2)C(C)O)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F | C16H11ClF4N2O4
reactant | triphenylphosphine | 2.5 mmol, 0.64 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | chloranil | 2.5 mmol, 0.60 g | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
reactant | water | O | H2O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 3-[4-chloro-2-(1-chloroethyl)-6-fluorobenzofuran-7-yl]-1-methyl-6-trifluoromethyluracil | 0.50 g, yield: 96.2% | ClC1=CC(=C(C2=C1C=C(O2)C(C)Cl)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F | C16H10Cl2F4N2O3
